US06841549B1
5-[6-Amino-8-(3-fluorophenyl)-9H-9-purinyl]-1-methyl-1,2-dihydro-2-pyridinone hdrochloride
N,N-Dimethylformamide dimethylacetal (0.5 ml, 3.76 mmol) was added to a suspension of 5-[6-amino-8-(3-fluorophenyl)-9H-9-purinyl]-1,2-dihydro-2-pyridinone (1.0 g, 3.10 mmol) in Example 2 in N,N-dimethylformamide (10 ml) and stirred in a nitrogen atmosphere at room temperature. After 1 hour, N,N-dimethylformamide dimethyl acetal (0.5 ml, 3.76 mmol) was further added thereto and stirred for additionall 5 hours. The reaction solution was ice-cooled, and 60 to 70% sodium hydride (136 mg, 3.40 mmol) was added thereto at 0 to 6° C. and stirred. After 30 minutes, iodomethane (0.29 ml, 4.66 mmol) was added dropwise thereto and stirred. After 20 minutes, conc. ammonia water (10 ml) was added thereto and stirred at room temperature. After 16 hours, the reaction solution was diluted with a saturated aqueous ammonium chloride solution and ethyl acetate. The aqueous layer was extracted with ethyl acetate (×4), and the combined organic layers were washed with 1 N aqueous sodium hydroxide solution (×1) and a saturated aqueous ammonium chloride solution (×1), dried over anhydrous sodium sulfate and concentrated. The residue was suspended in ethyl acetate, and the solid was collected by filtration and washed with ethyl acetate, to give the title compound in free form (703 mg). This free compound was dissolved in methanol-4N hydrochloric acid/ethyl acetate (1.5 ml) and concentrated. The residue was crystallized from methanol/ethyl acetate/diethyl ether, and the solid was collected by filtration and washed with diethyl ether, to give the title compound (697 mg, 60%) as a colorless solid.

reactant | N,N-Dimethylformamide dimethylacetal | 3.76 mmol, 0.5 ml | COC(N(C)C)OC | C5H13NO2
reactant | 5-[6-amino-8-(3-fluorophenyl)-9H-9-purinyl]-1,2-dihydro-2-pyridinone | 3.10 mmol, 1.0 g | NC1=C2N=C(N(C2=NC=N1)C=1C=CC(NC1)=O)C1=CC(=CC=C1)F | C16H11FN6O
reactant | N,N-dimethylformamide dimethyl acetal | 3.76 mmol, 0.5 ml | COC(N(C)C)OC | C5H13NO2
reactant | sodium hydride | 3.40 mmol, 136 mg | [H-].[Na+]
reactant | iodomethane | 4.66 mmol, 0.29 ml | IC | CH3I
reactant | ammonia water | 10 ml | O.N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[6-Amino-8-(3-fluorophenyl)-9H-9-purinyl]-1-methyl-1,2-dihydro-2-pyridinone | NC1=C2N=C(N(C2=NC=N1)C=1C=CC(N(C1)C)=O)C1=CC(=CC=C1)F | C17H13FN6O
